US07759389B2
To a solution of 7-(3-Fluorobenzene-sulfonyl)-chroman-4-ol (3.0 g, 9.7 mmol) in THF (40 ml) and toluene (40 ml) was added HC(COOEt)3 (4.5 g, 19.5 mmol) and then PMe3 (19.5 ml of 1.0M THF solution). The mixture was cooled to −78° C. DIAD (4.0 g, 19.5 mmol) was added dropwise. The mixture was stirred at −78° C. for 1 hour and then at RT for overnight. The next day the TLC showed that the reaction was complete. The solvent was removed and the residue was partitioned between EtOAc and H2O. The EtOAc layer was washed with brine, dried with MgSO4, concentrated and purified with flash column to give 2-Ethoxycarbonyl-2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-malonicacid diethyl ester: 5.0 g, clear oil. MS: 545 (M+Na)+.

reactant | 7-(3-Fluorobenzene-sulfonyl)-chroman-4-ol | 9.7 mmol, 3.0 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)O | C15H13FO4S
reactant | HC(COOEt)3 | 19.5 mmol, 4.5 g | C(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C10H16O6
reactant | PMe3 | 1.0M, 19.5 ml | P(C)(C)C | C3H9P
reactant | DIAD | 19.5 mmol, 4.0 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Ethoxycarbonyl-2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-malonicacid diethyl ester | C(C)OC(C(C(=O)OCC)(C1CCOC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)OCC)=O | C25H27FO9S
